US07297816B2
(S)-3-(3-Bromo-4-fluoro-phenyl)-2-[4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid methyl ester
The title compound was prepared from 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid as in Example 1, Part C. HPLC: RT=10.09 min. MS (ESI−): mass calcd. for C25H19BrClFN4O5S, 621.86; m/z found, 619/621 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.24 (s, 1H), 8.98 (d, J=1.6, 1H), 8.92 (d, J=1.6, 1H), 8.58 (dd, J=7.3, 1.1, 1H), 8.33 (dd, J=8.5, 1.1, 1H), 7.92-7.86 (m, 1H), 7.76 (d, J=1.9, 1H), 7.28-7.25 (m, 1H), 7.19 (d, J=8.4, 1H), 7.06-6.94 (m, 2H), 6.92 (dd, J=8.4, 1.9, 1H), 6.48 (d, J=7.2, 1H), 4.92 (q, J=5.7, 1H), 3.81 (s, 3H), 3.22-3.09 (m, 2H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H10ClN3O4S
product | (S)-3-(3-Bromo-4-fluoro-phenyl)-2-[4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)F)Br)NC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O)=O | C25H19BrClFN4O5S
